US06734200B1
3-(4-(1-Benzyl-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-(N-(t-butoxycarbonyl)-1,2,5-thiadiazol-3-ylaminomethyl)oxazolidin-2-one
1,1′-(Azodicarbonyl)dipiperidine (680 mg, 2.7 mM) was added portionwise to a stirred solution of 3-t-butyloxycarbonylamino-1,2,5-thiadiazole (543 mg, 2.7 mM, see WO 93-13091), 3-(4-(1-benzyl-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-hydroxymethyloxazolidin-2-one (720 mg, 1.8 mM; prepared by analogy with 3-fluoro compound—see WO 97-30995) and tributylphosphine (540 mg, 2.7 mM) in dry tetrahydrofuran (25 ml) at 0° under nitrogen. The mixture was stirred at 0° for 30 minutes and then at ambient temperature for 3 hours. The mixture was filtered and the filtrate evaporated. The residue was purified, firstly on a silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 30% ethyl acetate in isohexane and then on an Isolute SCX ion exchange column, washing with a gradient increasing, in polarity from 0 to 10% methanol in dichloromethane and then eluting with dichloromethane/methanol/0.88SG ammonia 87:10:3 to give the title product as a solid (669 mg, 64% ). NMR (DMSO-d6) δ: 1.49 (s, 9H); 2.30 (brs, 2H); 2.61 (t, 2H); 3.04 (m, 2H); 3.58 (s, 2H); 3.88 (dd, 1H); 4.13 (dd, 1H); 4.20 (dd, 1 H); 4.35 (dd, 1H); 5.02 (m, 1H); 5.79 (brs, 1H); 7.20-7.33 (m, 7H); 8.96 (s, 1H). MS (ESP): 584 (MH+) for C29H31F2N5O4S

reactant | 1,1′-(Azodicarbonyl)dipiperidine | 2.7 mM, 680 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 3-t-butyloxycarbonylamino-1,2,5-thiadiazole | 2.7 mM, 543 mg | C(C)(C)(C)OC(=O)NC1=NSN=C1 | C7H11N3O2S
reactant | 3-(4-(1-benzyl-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-hydroxymethyloxazolidin-2-one | 1.8 mM, 720 mg | C(C1=CC=CC=C1)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CO)=O)F | C22H22F2N2O3
reactant | tributylphosphine | 2.7 mM, 540 mg | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3-(4-(1-Benzyl-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-(N-(t-butoxycarbonyl)-1,2,5-thiadiazol-3-ylaminomethyl)oxazolidin-2-one | 669 mg, 64% | C(C1=CC=CC=C1)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CN(C(=O)OC(C)(C)C)C1=NSN=C1)=O)F | C29H31F2N5O4S
